* C:\Users\user\Desktop\python_spice\_trafo\trafo_single.asc 
R1 N001 N002 585.9268162050813 
L1 N002 N003 24.09399609300374 
V1 N001 0 SINE(0 3398.2945299964877 60) 
R2 N003 0 2655.4484367132063 
R3 N005 0 100 
L2 N003 0 20.64499916740673 
L3 N004 0 44.7226673825742 
L4 N004 N005 0.2m 
.tran 6.510416666666664e-05 0.04993489583333333 0 
K L2 L3 1 
.options  
.backanno 
.end 
